US06579883B1
3a,6-Difluoro-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one
A solution of 200 mg (0.6 mmol) of 5-tert-butoxycarbonyl-3a,6-difluoro-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one in 2 ml of dichloromethane is mixed with 2 ml of trifluoroacetic acid at room temperature. After 30 minutes, the batch is diluted with water and ethyl acetate. The organic phase is separated, washed with water, saturated NaHCO3 and saturated NaCl, dried (Na2SO4) and concentrated by evaporation in a vacuum. Column chromatography of the residue on silica gel with hexane-ethyl acetate yields 60 mg of product.

reactant | 5-tert-butoxycarbonyl-3a,6-difluoro-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one | 0.6 mmol, 200 mg | C(C)(C)(C)OC(=O)N1C(C2(C(C=3C=CC=C(C13)F)CCC2)F)=O | C17H19F2NO3
reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3a,6-Difluoro-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one | 60 mg | FC12C(NC=3C(=CC=CC3C1CCC2)F)=O | C12H11F2NO
